Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F PMHx bipolar disorder, schizophrenia, obesity, anxiety, 
hypothyroidism who presents with point tenderness of her lower 
back x3 weeks.

Patient reported the pain started x3 weeks ago; she woke up in 
the AM with soreness, which progressed to severe stabbing 
central pain over her lumbar spine. She reported the pain ranges 
from ___ it is non-radiating. She reported it is worse with 
lying flat and improves with sitting up. She is unable to stand 
for long periods of time due to the pain and she has missed work 
for the past x2 weeks due to the pain. She denied f/c, 
cough/cold, CP/palp, SOB, abd pain/N/V, changes in BM. She noted 
she has had decreased urinary stream x1 day; denies dysuria or 
hematuria. She reported she has never had pain like this before; 
of note she has had lower back spasms as well as shingles on her 
lower back but this pain is significantly different.  

Of note, patient presented to ___ due to this pain. She 
underwent plain film imaging which was negative for fracture or 
bony process. She received Tylenol #3 which she hasn't taken 
because it hasn't helped her pain. She then had an MRI at 
___ which she reported showed no acute process. She 
presented to ___ because of the persistence and severity of 
the pain. 

 
Past Medical History:
Schizophrenia  
Bipolar disorder  
Obesity  
Hypothyroidism  
Sinus surgery  
Anxiety  
Overactive bladder  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION:
VS: 97.7 152/99 117 20 100% RA  
Gen: Appears mildly uncomfortable  
HEENT: Moist mucous membranes  
CARDIAC: Heart sounds difficult to auscultate, but S1 S2, no 
murmurs, tachy and regular  
LUNGS: CTAB. no crackles or wheeze  
ABDOMEN: +BS, Soft, NT, ND  
EXTREMITIES: No edema or calf pain  
BACK: No TTP of paraspinal muscles. Mild point TTP over low 
lumbar spinous processes  
SKIN: No rashes. Multiple tattoos  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Straight leg 
raise negative bilaterally. Sensation and proprioception intact 
bilaterally.
PSYCH: appropriate mood and affect  

DISCHARGE:
VS: 97.8 143/75 108 24 100% RA  
GENERAL: lying in bed, NAD
HEENT: AT/NC, PERRL, EOMI, OP clear, MMM 
CARDIAC: Distant heart sounds, tachycardic, (+) S1 S2, no 
murmurs/rubs/gallops 
LUNGS: CTAB. no crackles or wheeze  
ABDOMEN: +BS, Soft, NT, ND  
EXTREMITIES: WWW, No edema or calf pain  
BACK: No TTP of paraspinal muscles. (+) Mild point TTP over low 
lumbar spinous processes  
SKIN: No rashes. Multiple tattoos  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Straight leg 
raise negative bilaterally  
PSYCH: appropriate mood and affect
 
Pertinent Results:
ADMISSION:
___ 06:05PM   WBC-12.5* RBC-4.58 HGB-14.1 HCT-43.3 MCV-95 
MCH-30.8 MCHC-32.6 RDW-13.2 RDWSD-45.0
___ 06:05PM   NEUTS-46.2 ___ MONOS-9.6 EOS-4.0 
BASOS-0.7 IM ___ AbsNeut-5.75 AbsLymp-4.87* AbsMono-1.20* 
AbsEos-0.50 AbsBaso-0.09*
___ 06:05PM   D-DIMER-174
___ 06:28PM   LACTATE-3.6* K+-6.4*
___ 07:40PM   TSH-2.6
___ 07:40PM   GLUCOSE-97 UREA N-14 CREAT-0.9 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-22 ANION GAP-17
___ 07:55PM   LACTATE-2.2* K+-4.0

DISCHARGE:
___ 10:10AM BLOOD WBC-8.9 RBC-3.87* Hgb-11.7 Hct-36.7 
MCV-95 MCH-30.2 MCHC-31.9* RDW-13.3 RDWSD-45.8 Plt ___
___ 10:10AM BLOOD ___ PTT-30.1 ___
___ 10:10AM BLOOD Glucose-136* UreaN-12 Creat-0.9 Na-138 
K-3.8 Cl-103 HCO3-21* AnGap-18
___ 10:10AM BLOOD ALT-30 AST-32 AlkPhos-82 TotBili-0.7
___ 10:10AM BLOOD Albumin-3.8 Calcium-8.8 Phos-4.2 Mg-1.8
___ 10:10AM BLOOD Lithium-0.3*
___ 10:53AM BLOOD Lactate-2.0

MICRO:
-Blood cx pending
-Urine cx: (Final ___: MIXED BACTERIAL FLORA ( >= 3 COLONY 
TYPES), CONSISTENT WITH FECAL CONTAMINATION. 

IMAGING:
-Lumbar XR: (___)  Date of exam: ___, 0637 hours  
Indication: ___ with severe low back pain AP, lateral 
cone-down lateral views of the lumbar spine show 5 lumbar type 
vertebrae which have normal configuration, height, 
mineralization and alignment. No fracture or subluxation 
demonstrated. Intervertebral disc spaces preserved. Facet joints 
normal. Conclusion: Normal views of the lumbar spine
 
Brief Hospital Course:
___ female with history of bipolar, schizophrenia, 
obesity, anxiety, hypothyroidism and other issues presented with 
3 weeks lower back pain, outpatient workup notable for MRI 
without significant pathology, felt to be due to 

Lower back pain: exam notable for TTP over lumbar spine and out 
to iliac crests b/l, concerning for paraspinal muscle spasm. No 
red flags on history or labs. Recent OSH MRI Lspine was reviewed 
from ___ which was read as "except for questionable minimal 
central bulge at L5-S1, no significant lesions are seen in 
lumbar spine." Started on pain regimen 
w/Tylenol 1gm q6h/oxycodone 5mg q6h with improvement in pain. 
Walked without assistance and reported significant improvement 
in pain w/described regimen; was discharged w/rx for oxycodone 
5mg q6hr #12 pills and Tylenol. Will follow up ___ as outpt.

# Sinus Tachycardia: EKG without significant abnormality; TSH 
wnl; resolved with appropriate pain control; felt to relate to 
pain; 

# History of schizophrenia / bipolar disorder: patient was noted 
to be calm, appropriate affect. Her medication list was 
confirmed with the pharmacy; she was continued on her home 
medications (paroxetine, lamotrigine, lithium, mirtazapine, and 
asenaprine PRN). 

Transitional Issues:
[] Patient to follow-up with ___ as an outpatient 
[] Could consider repeat outpatient UA (had 2 RBCs on her 
inpatient UA)
# CONTACT: Wife ___ (___)  
# CODE: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LaMOTrigine 200 mg PO QHS 
2. Paroxetine 60 mg PO QHS 
3. Lithium Carbonate 1200 mg PO QHS 
4. Mirtazapine 45 mg PO QHS 
5. ASENapine 5 mg SL QAM 

 
Discharge Medications:
1. ASENapine 5 mg SL QAM 
2. LaMOTrigine 200 mg PO QHS 
3. Lithium Carbonate 1200 mg PO QHS 
4. Mirtazapine 45 mg PO QHS 
5. Paroxetine 60 mg PO QHS 
6. Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN breakthrough 
pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Lower back pain

SECONDARY DIAGNOSES:
-Bipolar disorder
-Schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ due to lower back pain and a fast 
heart rate. Your labwork was checked and was reassuring. An ECG 
(electrocardiogram) which shows the electrical activity of your 
heart was checked and showed a fast heart rate likely due to 
pain. Your imaging from prior to admission was reviewed and 
showed no fractures or other bony abnormalities. Your exam was 
notable for tenderness over your lower back including your spine 
and hips, consistent with musculoskeletal pain. You were started 
on Tylenol 1gm every 6 hours as needed for pain and oxycodone 
5mg every 6 hours as needed for pain. You were able to walk 
around on your own and your pain significantly improved on the 
regimen as described above. Your heart rate slowed down as your 
pain improved. You should continue to take Tylenol and oxycodone 
as needed for pain. You should continue to move around as this 
will prevent you from having muscle spasms.

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___